US08017611B2
3-(1,3-Benzoxazol-2-yl)-5-[1-(1-isopropyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine
2-Iodopropane (0.029 ml) was added in one portion to 3-(1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (0.100 g) and triethylamine (0.05 8 ml) in DMA (3 ml) and the resulting solution was stirred for 30 minutes. A further portion of 2-iodopropane (0.029 ml) was added, the temperature was increased to 50° C. and the reaction mixture was stirred for a further 90 minutes. A third portion of 2-iodopropane (0.029 ml) was added, and then triethylamine (0.058 ml) was added and the reaction heated at 50° C. for a further hour. The reaction mixture was then evaporated to dryness and redissolved in DMSO (3.6 ml) and the crude product was purified by preparative X bridge HPLC (C18 OBD column, 5μ silica, 21 mm diameter, 100 mm length using decreasingly polar mixtures of water containing 1% ammonia and MeCN as eluents). There was thus obtained 3-(1,3-benzoxazol-2-yl)-5-[1-(1-isopropyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine (0.065 g); Mass Spectrum: M+H+ 403.17; RT 2.49 min; NMR Spectrum: (DMSOd6) 8.53 (1H, d), 8.44 (1H, d), 8.32 (1H, s), 7.90 (1H, s), 7.82-7.86 (1H, m), 7.77-7.81 (1H, m), 7.62 (2H, s), 7.41-7.49 (2H, m), 4.05-4.16 (1H, m), 2.91 (2H, d), 2.77 (1H, quintet), 2.29 (2H, t), 2.02-2.11 (2H, m), 1.94 (2H, qd), 1.01 (6H, d).

reactant | 2-Iodopropane | 0.029 ml | IC(C)C | C3H7I
reactant | 3-(1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 0.100 g | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C20H20N6O
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-iodopropane | 0.029 ml | IC(C)C | C3H7I
reactant | 2-iodopropane | 0.029 ml | IC(C)C | C3H7I
reactant | triethylamine | 0.058 ml | C(C)N(CC)CC | C6H15N
solvent | DMA | 3 ml | CC(=O)N(C)C | C4H9NO
product | 3-(1,3-Benzoxazol-2-yl)-5-[1-(1-isopropyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCN(CC2)C(C)C)N | C23H26N6O
